US07700633B2
BCl3 (1 M in DCM, 56 mL) is added to a mixture of acetic acid 7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl ester (4.94 g, 22.5 mmol) and Bu4NI (10.8 g, 29.2 mmol) in DCM (112 mL) at −78° C. The mixture is stirred at −78° C. and then warmed to room temperature over 1 h. The mixture is partitioned between EtOAc and ice-cold brine. The organic layer is dried over MgSO4, concentrated and chromatographed to afford acetic acid 7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl ester as a yellow oil, which upon standing at room temperature becomes a solid: 1H NMR (CDCl3) δ 6.96 (d, J=8.0 Hz, 1H), 6.64 (d, J=8.0 Hz, 1H), 6.55 (s, 1H), 5.18 (m, 1H), 5.00 (m, 1H), 3.05 (dd, J=16.0, 8.0 Hz, 1H), 2.90-2.72 (m, 3H), 2.06 (s, 3H), 2.06-1.89 (m, 2H).

reactant | BCl3 | 1 M, 56 mL | B(Cl)(Cl)Cl | BCl3
reactant | acetic acid 7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl ester | 22.5 mmol, 4.94 g | COC1=CC=C2CCC(CC2=C1)OC(C)=O | C13H16O3
catalyst | Bu4NI | 29.2 mmol, 10.8 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DCM | 112 mL | C(Cl)Cl | CH2Cl2
product | acetic acid 7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl ester | OC1=CC=C2CCC(CC2=C1)OC(C)=O | C12H14O3
